US05037853
To a solution of trans-1-acetoxymethyl-2,2-difluoro-3-phenylcyclopropane (9.7 mmol, prepare according to Kobayashi et al. J. Org. Chem, 1982, 47, 3232) in methanol (50 mL) was added K2CO3 (1.34 g, 9.7 mmol) and the reaction was stirred for 20 mins. The solution was then decanted from the solids and concentrated. The residue was purified by column chromatography (silica gel, ether:hexanes, 35:65) to afford 1.72 g (96%) of trans-2,2-difluoro-1-hydroxymethyl-3-phenylcyclopropane.

reactant | trans-1-acetoxymethyl-2,2-difluoro-3-phenylcyclopropane | 9.7 mmol | C(C)(=O)OC[C@@H]1C([C@H]1C1=CC=CC=C1)(F)F | C12H12F2O2
reactant | K2CO3 | 9.7 mmol, 1.34 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 50 mL | CO | CH4O
product | trans-2,2-difluoro-1-hydroxymethyl-3-phenylcyclopropane | 1.72 g, 96% | FC1([C@H]([C@@H]1C1=CC=CC=C1)CO)F | C10H10F2O
